US05216159
A mixture of benzamidine (7.42 g) and dimethyl malonate (8.09 g) in dry dimethyl sulfoxide (7 mL) was allowed to stand at room temperature for 24 h. The precipitated product was collected and washed with water and ether to afford 2-Phenyl-4,6-dihydroxy-pyrimidine as a white solid.

reactant | benzamidine | 7.42 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | dimethyl malonate | 8.09 g | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | dimethyl sulfoxide | 7 mL | CS(=O)C | C2H6OS
product | 2-Phenyl-4,6-dihydroxy-pyrimidine | C1(=CC=CC=C1)C1=NC(=CC(=N1)O)O | C10H8N2O2
